US04306097
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]cyclohex-2-enone
A mixture of 400 mg. (0.988 mmole) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-enone and 20 mg. of 5% palladium-on-carbon was stirred under one atmosphere of hydrogen pressure for 30 minutes. The reaction mixture was then filtered through diatomaceous earth with ether and the filtrate evaporated to a solid. The crude solid was recrystallized from petroleum ether to yield 110 mg. (35%) of the title compound, M.P. 122°-123° C.

reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-enone | 0.988 mmole | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1=CC(CCC1)=O | C28H36O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]cyclohex-2-enone | 35% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)=O)O | C21H30O2
